US06515130B1
(R)-1-[3-(1-Benzyloxycarbonyl-4-piperidyl)-propionyl]-3-piperidinecarboxylic Acid
3-(N-Benzyloxycarbonyl-4-piperidyl)propionic acid calcium salt (21.9 g, 32.2 mmol), (R)-ethyl nipecotate (21.7 g, 70.8 mmol), and hydroxy benzyltriazole (HOBT) (1.30 g, 9.65 mmol) were suspended in water (40 g) and THF (80 g). The resulting suspension was adjusted to pH 7 with Ca(OH)2. Ca-tartrate precipitated and was collected by filtration and washed with 10 g THF. To the filtrate was added slowly a solution of DCC (19.9 g, 96.5 mmol) in 40 g of THF at 0-5° C. The reaction mixture was warmed slowly to 20-25° C. and N,N-dichlorourethane (DCU) precipitated. After 4 h, the DCU was removed by filtration and washed with 8 g of THF. The filtrate was cooled to 0-5° C. and lithium hydroxide (6.67 g, 159.0 mmol) in 60.38 g of water was added at 0-5° C. The pale yellow solution was warmed to ambient temperature. After 3 h, the solvent was removed by distillation under vacuum at or below 55° C. Ethyl acetate (45.4 g) was added and the pH was adjusted to exactly 4.0 with ca. 18.6 g of concentrated HCl. DCU precipitated and was filtered from the mixture. The layers were separated and the aqueous layer was washed twice with 31.8 g of ethyl acetate. The combined organic layers were washed twice with a solution of 15.8 g NaCl in 47.2 g of water. The ethyl acetate layer was separated and the solvent was removed by distillation under vacuum at or below 55° C. The product remained as a thick pulp. MTBE (70.8 g) was added and the suspension was stirred for 30 minutes at 45-50° C., then cooled to 15-25° C. and stirred for one hour until crystallization was complete. The product was centrifuged and washed with 6.3 g of MTBE, then dried under vacuum at 40-50° C. to afford the title compound in 92% yield and >98% ee.

reactant | 3-(N-Benzyloxycarbonyl-4-piperidyl)propionic acid calcium salt | 32.2 mmol, 21.9 g | [Ca+2].C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)[O-].C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)[O-]
reactant | (R)-ethyl nipecotate | 70.8 mmol, 21.7 g | N1C[C@H](C(=O)OCC)CCC1 | C8H15NO2
reactant | hydroxy benzyltriazole | 9.65 mmol, 1.30 g | OC1=C(N=NN1)CC1=CC=CC=C1 | C9H9N3O
reactant | DCC | 96.5 mmol, 19.9 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | lithium hydroxide | 159.0 mmol, 6.67 g | [OH-].[Li+]
solvent | water | 40 g | O | H2O
solvent | THF | 80 g | C1CCOC1 | C4H8O
solvent | THF | 40 g | C1CCOC1 | C4H8O
solvent | water | 60.38 g | O | H2O
product | (R)-1-[3-(1-Benzyloxycarbonyl-4-piperidyl)-propionyl]-3-piperidinecarboxylic Acid | 92% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)O | C22H30N2O5
